US04600712
Preparation of 1-cyano-1-(4-chlorophenyl)-2-(3-pyridyl)ethene (trans isomer) (4)
A solution of 4-chlorobenzyl cyanide (7.58 g) and pyridine-3-aldehyde (5.35 g) in absolute ethanol (50 ml) was warmed to 50° C.; 3.5 ml of a solution of sodium (2.74 g) in absolute ethanol (32 ml) was added and the mixture was left without further heating. After 1 hour, the solid product was filtered off, washed with ethanol, and then diethylether, and dried. Recrystallization of this material from ethanol (150 ml) with charcoal treatment gave 4 in 48% yield as pale yellow needles; m.p. 141°-143° C.

reactant | 4-chlorobenzyl cyanide | 7.58 g | ClC1=CC=C(CC#N)C=C1 | C8H6ClN
reactant | pyridine-3-aldehyde | 5.35 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | sodium | 2.74 g | [Na] | Na
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 32 ml | C(C)O | C2H6O
product | 1-cyano-1-(4-chlorophenyl)-2-(3-pyridyl)ethene | 48% yield | C(#N)C(=CC=1C=NC=CC1)C1=CC=C(C=C1)Cl | C14H9ClN2
